US09371318B2
Step 1: 4-(1,3-Dioxolan-2-yl)benzyl methanesulfonate
To an ice-cooled stirred solution of (4-(1,3-dioxolan-2-yl)phenyl)methanol (prepared as described in WO2012168359, which is incorporated herein by reference in its entirety, 1.2 g, 6.6 mmol) and triethylamine (2.8 mL, 20.0 mmol) in DCM (40 mL) was added dropwise a solution of methanesulfonyl chloride (0.77 mL, 10.0 mmol) in DCM (10 mL). The reaction mixture was stirred at this temperature for 40 minutes and then at room temperature for 18 hours. The reaction mixture was washed with water and the organic phase dried (magnesium sulfate). The filtrate was evaporated at reduced pressure to afford the title compound which was used immediately without further purification.

reactant | (4-(1,3-dioxolan-2-yl)phenyl)methanol | O1C(OCC1)C1=CC=C(C=C1)CO | C10H12O3
reactant | triethylamine | 20.0 mmol, 2.8 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 10.0 mmol, 0.77 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 40 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(1,3-Dioxolan-2-yl)benzyl methanesulfonate | CS(=O)(=O)OCC1=CC=C(C=C1)C1OCCO1 | C11H14O5S
